US06034096
A solution of 6-(diethylaminomethyl)-2-naphthyl-methylamine (6 g, 24 mmol) and N,N'-disuccinimidyl carbonate (6.3 g, 24 mmol) in acetonitrile (200 ml) was stirred at room temperature for 3 hours, then this solution was added to a solution of 4-aminobenzoic acid (3.4 g, 24 mmol) and sodium carbonate (2.6 g, 24 mmol) in water (100 ml) and THF (100 ml). The mixture was stirred at room temperature for 48 hours, then 1N HCl (48 ml, 48 mmol) was added and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel (eluent chloroform-methanol-ammonium hydroxide 7:3:0.5) yielding 3.5 g (yield 36%) of pure 4-[6-(diethylaminomethyl)naphth-2-ylmethylaminocarbamoyl]benzoic acid. m.p.=179-183° C. (dec.)

reactant | 6-(diethylaminomethyl)-2-naphthyl-methylamine | 24 mmol, 6 g | C(C)N(CC)CC=1C=C2C=CC(=CC2=CC1)NC | C16H22N2
reactant | N,N'-disuccinimidyl carbonate | 24 mmol, 6.3 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | 4-aminobenzoic acid | 24 mmol, 3.4 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | sodium carbonate | 24 mmol, 2.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 48 mmol, 1N, 48 ml | Cl | ClH
reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-[6-(diethylaminomethyl)naphth-2-ylmethylaminocarbamoyl]benzoic acid | 3.5 g, yield 36% | C(C)N(CC)CC=1C=C2C=CC(=CC2=CC1)CNNC(=O)C1=CC=C(C(=O)O)C=C1 | C24H27N3O3
